US04439225
Tetrahydro-5-(hydroxymethyl)-2,5-dimethyl-2-furancarbonitrile Mixture of cis (Z) and trans (E) Isomers
To a cooled (ice bath) and stirred mixture of 139.52 g 86% m-chloroperbenzoic acid in 2 liters methylene chloride was added 87.98 g of crude 2,5-dimethyl-2-hydroxy-5-hexenenitrile. After 30 minutes at 3° C., the mixture was allowed to warm to room temperature (ca 25° C.). The resulting mixture, which contained the intermediate epoxy cyanohydrin, was then treated with 790 ml of 0.12 N hydrochloric acid to effect cyclization. After stirring vigorously for an additional 2 hours at ca 25° C., the organic phase was separated, washed with 10% aqueous sodium carbonate and dried (MgSO4). Evaporation of solvent and distillation of the residue afforded 62.87 g product with bp 100°-105° C. (0.3 torr).

reactant | m-chloroperbenzoic acid | 139.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,5-dimethyl-2-hydroxy-5-hexenenitrile | 87.98 g | CC(C#N)(CCC(=C)C)O | C8H13NO
reactant | hydrochloric acid | 0.12 N, 790 ml | Cl | ClH
solvent | methylene chloride | 2 liters | C(Cl)Cl | CH2Cl2
product | Tetrahydro-5-(hydroxymethyl)-2,5-dimethyl-2-furancarbonitrile | 62.87 g | OCC1(CCC(O1)(C#N)C)C | C8H13NO2
